US08623239B2
Synthesis of 9-chlorophenanthridine
Phosphorus oxychloride (15 ml) and dimethylaniline (0.63 ml) were added to phenanthridine (2.0 g), followed by refluxing for 3 hours. The solution was poured into H2O to generate a solid, and the obtained solid was extracted with chloroform, followed by drying with sodium sulfate. After filtration, the filtrate was evaporated to dryness under reduced pressure. The obtained solid was purified by column chromatography (eluent: chloroform) (amount: 2.1 g, yield: 96%).

reactant | Phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylaniline | 0.63 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phenanthridine | 2.0 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
solvent | H2O | O | H2O
product | 9-chlorophenanthridine | yield: 96% | ClC=1C=CC2=CN=C3C=CC=CC3=C2C1 | C13H8ClN
